US09108936B2
To a mixture of trifluoro-methanesulfonic acid [2-[(4-chlorophenyl)-methyl-carbamoyl]-3-methyl-5-morpholin-4-yl-phenyl]ester (synthesized according to the method described in section a) of example 12) (1.0 g, 2.03 mmol) in dioxane (50 ml) are added 2,6-di-tert-butyl-4-methylphenol (0.044 g, 0.20 mmol), lithium chloride (0.688 g, 16.3 mmol) and tributyl-1-cyclopenten-1-yl-stannane (1.46 g, 4.06 mmol). The mixture is degassed and flushed with argon for 30 min followed by the addition bis(triphenylphosphine)palladiumchloride (0.17 g, 0.24 mmol). The resulting mixture is heated at 120° C. for 16 h. The reaction mixture is diluted with water (30 ml) and extracted with ethyl acetate (3×50 ml). The organic layer is washed with water (20 ml), saturated potassium fluoride solution (2×20 ml), brine (20 ml) and dried over anhydrous sodium sulfate. Evaporation under vacuum afforded the crude product, which is purified by column chromatography (silica gel-10% KF, 20% ethyl acetate/hexane) to yield N-[(4-chlorophenyl)-methyl]-2-cyclopenten-1-yl-6-methyl-4-morpholin-4-yl-benzamide (0.50 g, 1.22 mmol, 60%).

reactant | trifluoro-methanesulfonic acid [2-[(4-chlorophenyl)-methyl-carbamoyl]-3-methyl-5-morpholin-4-yl-phenyl]ester | ClC1=CC=C(C=C1)N(C(=O)C1=C(C=C(C=C1C)N1CCOCC1)OS(=O)(=O)C(F)(F)F)C | C20H20ClF3N2O5S
reactant | 2,6-di-tert-butyl-4-methylphenol | 0.20 mmol, 0.044 g | C(C)(C)(C)C1=C(C(=CC(=C1)C)C(C)(C)C)O | C15H24O
reactant | lithium chloride | 16.3 mmol, 0.688 g | [Cl-].[Li+]
reactant | tributyl-1-cyclopenten-1-yl-stannane | 4.06 mmol, 1.46 g | C(CCC)[Sn](C1=CCCC1)(CCCC)CCCC
solvent | dioxane | 50 ml | O1CCOCC1 | C4H8O2
solvent | water | 30 ml | O | H2O
catalyst | bis(triphenylphosphine)palladiumchloride | 0.24 mmol, 0.17 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | N-[(4-chlorophenyl)-methyl]-2-cyclopenten-1-yl-6-methyl-4-morpholin-4-yl-benzamide | 1.22 mmol, 0.50 g, 60% | ClC1=CC=C(C=C1)CNC(C1=C(C=C(C=C1C)N1CCOCC1)C1=CCCC1)=O | C24H27ClN2O2
